US07176231B2
(2) 1-acetyl-5-benzoyl-3-(ethoxy-phenyl-methylidene)-2-indolinone
Prepared from 1-acetyl-5-benzoyl-2-indolinone and triethyl orthobenzoate

reactant | 1-acetyl-5-benzoyl-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)C(C1=CC=CC=C1)=O)=O | C17H13NO3
reactant | triethyl orthobenzoate | CCOC(C1=CC=CC=C1)(OCC)OCC | C13H20O3
product | 1-acetyl-5-benzoyl-3-(ethoxy-phenyl-methylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C1=CC=CC=C1)=O)=C(C1=CC=CC=C1)OCC)=O | C26H21NO4
